*** SPICE deck for cell SingleCell_sim{lay} from library Lab_1_DAC
*** Created on Fri Sep 19, 2025 23:42:22
*** Last revised on Fri Sep 19, 2025 23:44:27
*** Written on Fri Sep 19, 2025 23:44:37 by Electric VLSI Design System, version 9.08
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF

*** SUBCIRCUIT Lab_1_DAC__SingleCell FROM CELL SingleCell{lay}
.SUBCKT Lab_1_DAC__SingleCell bot in out
Rresnwell@0 net@0 in 10k
Rresnwell@1 net@0 out 10k
Rresnwell@2 bot out 10k
.ENDS Lab_1_DAC__SingleCell

*** TOP LEVEL CELL: SingleCell_sim{lay}
XSingleCe@0 gnd vin vout Lab_1_DAC__SingleCell

* Spice Code nodes in cell cell 'SingleCell_sim{lay}'
vin vin 0 DC 1
.op
.END
