*** SPICE deck for cell simulations{sch} from library lab_5
*** Created on Fri Oct 24, 2025 11:31:39
*** Last revised on Fri Oct 24, 2025 17:43:02
*** Written on Fri Oct 24, 2025 17:43:12 by Electric VLSI Design System, version 9.08
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF

*** SUBCIRCUIT lab_5__NAND_2 FROM CELL NAND_2{sch}
.SUBCKT lab_5__NAND_2 A B Y
** GLOBAL gnd
** GLOBAL vdd
Mnmos@0 Y A net@0 gnd NMOS L=0.6U W=1.8U
Mnmos@1 net@0 B gnd gnd NMOS L=0.6U W=1.8U
Mpmos@0 Y A vdd vdd PMOS L=0.6U W=1.8U
Mpmos@1 Y B vdd vdd PMOS L=0.6U W=1.8U
.ENDS lab_5__NAND_2

*** SUBCIRCUIT lab_5__XOR_2 FROM CELL XOR_2{sch}
.SUBCKT lab_5__XOR_2 A B Y
** GLOBAL gnd
** GLOBAL vdd
Mnmos@0 nota_out A gnd gnd NMOS L=0.6U W=1.8U
Mnmos@1 notb_out B gnd gnd NMOS L=0.6U W=1.8U
Mnmos@2 Y A net@42 gnd NMOS L=0.6U W=1.8U
Mnmos@3 net@42 B gnd gnd NMOS L=0.6U W=1.8U
Mnmos@4 net@42 notb_out Y gnd NMOS L=0.6U W=1.8U
Mnmos@5 gnd nota_out net@42 gnd NMOS L=0.6U W=1.8U
Mpmos@0 nota_out A vdd vdd PMOS L=0.6U W=1.8U
Mpmos@1 notb_out B vdd vdd PMOS L=0.6U W=1.8U
Mpmos@2 net@55 A vdd vdd PMOS L=0.6U W=1.8U
Mpmos@3 Y notb_out net@55 vdd PMOS L=0.6U W=1.8U
Mpmos@4 vdd B net@56 vdd PMOS L=0.6U W=1.8U
Mpmos@5 net@56 nota_out Y vdd PMOS L=0.6U W=1.8U
.ENDS lab_5__XOR_2

*** SUBCIRCUIT lab_5__full_adder FROM CELL full_adder{sch}
.SUBCKT lab_5__full_adder A B Cin cout S
** GLOBAL gnd
** GLOBAL vdd
XNAND_2@0 A B net@23 lab_5__NAND_2
XNAND_2@1 Cin net@14 net@24 lab_5__NAND_2
XNAND_2@2 net@24 net@23 cout lab_5__NAND_2
XXOR_2@0 Cin net@14 S lab_5__XOR_2
XXOR_2@1 A B net@14 lab_5__XOR_2
.ENDS lab_5__full_adder

.global gnd vdd

*** TOP LEVEL CELL: simulations{sch}
Xfull_add@0 a b cin cout s lab_5__full_adder

* Spice Code nodes in cell cell 'simulations{sch}'
vdd vdd 0 dc 5
va a 0 pulse(0v 5v 0n 1n 1n 10n 20n)
vb b 0 pulse(0v 5v 5n 1n 1n 10n 20n)
vcin cin 0 pulse(0v 5v 2n 1n 1n 10n 20n)
.tran 0 60n
.include C5_models.txt
.END
