*** SPICE deck for cell test_inverters_load{sch} from library lab_4_inverter
*** Created on Fri Oct 10, 2025 11:45:54
*** Last revised on Fri Oct 10, 2025 15:51:39
*** Written on Fri Oct 10, 2025 15:51:45 by Electric VLSI Design System, version 9.08
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF

*** SUBCIRCUIT lab_4_inverter__inverter_1 FROM CELL inverter_1{sch}
.SUBCKT lab_4_inverter__inverter_1 in out
** GLOBAL gnd
** GLOBAL vdd
Mnmos@1 out in gnd gnd NMOS L=1.8U W=1.8U
Mpmos@1 out in vdd vdd PMOS L=1.8U W=3.6U
.ENDS lab_4_inverter__inverter_1

*** SUBCIRCUIT lab_4_inverter__inverter_2 FROM CELL inverter_2{sch}
.SUBCKT lab_4_inverter__inverter_2 in out
** GLOBAL gnd
** GLOBAL vdd
Mnmos@0 out in gnd gnd NMOS L=1.8U W=7.2U
Mpmos@0 out in vdd vdd PMOS L=1.8U W=14.4U
.ENDS lab_4_inverter__inverter_2

.global gnd vdd

*** TOP LEVEL CELL: test_inverters_load{sch}
Ccap@1 gnd vout1 {x}
Ccap@2 gnd vout2 {x}
Xinverter@0 vin vout1 lab_4_inverter__inverter_1
Xinverter@1 vin vout2 lab_4_inverter__inverter_2

* Spice Code nodes in cell cell 'test_inverters_load{sch}'
vdd vdd 0 DC 5
vin vin 0 pulse(0v 5v 5n 1n 1n 12n 25n)
.step param x list 100fF 1pF 10pF 100pF
.trans 0 25n 0 100p
.include C5_models.txt
.END
